Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
abdominal pain

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of
hypothyroidism who presents with worsening abdominal pain poor
appetite and weight loss. 

Patient notes first having symptoms of abdominal pain about 4
weeks ago which she attributed to stress at the time. Her pain
would come in sharp waves that would come and go at times
frequently and other times she would have about ___ hours 
without
any pain at all. She continued to attribute this to different
things going on at home but never imagined there was an organic
cause to the pain. Over the past 10 days her pain has been more
severe and her episodes have become more severe with significant
bloating and abdominal distension especially after eating 
fibrous
meals. She took some gasX a few days ago but developed very
severe loose dark stool without improvement in her pain. She has
since stopped taking this. She hasn't tried anything else for 
the
pain stating it never occurred to he this was something she 
could
do anything about. Her appetite has been poor and she had to
remind herself to eat but felt like she could go all day without
eating. She hasn't had any vomiting but states has been getting
carsick easily. She has lost about 6 pounds over the past ___
weeks she thinks. She also notes low energy overall which is
quite uncharacteristic for her. 

In the ED: 
AFVSS, abdomen soft but diffusely tender to palpation especially
in suprapubic area 
Labs: CBC/CMP unremarkable, UA with ___ and nitrites
Imaging: necrotic mass in RLQ arising from cecum most concerning
for colon CA with contiguous RLQ mesenteric mass worrisome for
conglomerate adenopathy
Interventions: oxycodone 5mg, Tylenol ___, Ceftriaxone 1g 
given
for + UA

On arrival to the floor patient states she was in shock and 
still
felt that this isn't real. She thinks it would be helpful for 
her
to see the tumor on the CAT scan. She states it's very difficult
to find herself now in the sick role when she's been her son's
caretaker all year as he's gone through his cancer treatment. 
Her
son has aggressive NHL and just went through his treatment at
___. Her daughter is actually an oncologist at the Sarcoma
center at ___. Of note, patient had a normal colonoscopy in 
___
and wasn't due for repeat colonoscopy for another ___ years. 

ROS: Pertinent positives and negatives as noted in the HPI. All
other systems were reviewed and are negative. 

 
Past Medical History:
ANXIETY 
MENISCAL TEAR 
MYOFASCIAL PAIN SYNDROME 
OSTEOARTHRITIS 
HYSTERECTOMY 
ATYPICAL CHEST PAIN 
DEPRESSION 
HYPERLIPIDEMIA 
Hip replacements
Left knee surgery
 
Social History:
___
Family History:
Father CORONARY ARTERY DISEASE 
Son NON-HODGKIN'S LYMPHOMA 
 
Physical Exam:
Admission physical exam
VITALS: Temp: 98.5 (Tm 98.5), BP: 126/80, HR: 82, RR: 18, O2 
sat:
96%, O2 delivery: RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen softly distended, tender to palpation diffusely
without rebound or guarding, during interview had 3 episodes of
crampy pain short-lasting, self-resolving. Bowel sounds present.
No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: No obvious rashes or ulcerations noted on cursory skin 
exam
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect, tearful at times

Discharge physical exam
___ 0713 Temp: 97.9 PO BP: 128/74 R Lying HR: 72 RR: 16 O2
sat: 97% O2 delivery: RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation 
(However
during sharp episodes has pain on palpation).  Bowel sounds
present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
Admission labs
___ 03:09PM BLOOD WBC-5.3 RBC-4.09 Hgb-13.0 Hct-39.8 MCV-97 
MCH-31.8 MCHC-32.7 RDW-13.2 RDWSD-47.5* Plt ___
___ 06:37AM BLOOD ___ PTT-38.1* ___
___ 03:09PM BLOOD Glucose-119* UreaN-13 Creat-0.6 Na-138 
K-4.2 Cl-103 HCO3-21* AnGap-14
___ 03:09PM BLOOD ALT-13 AST-16 AlkPhos-65 TotBili-0.2
___ 06:37AM BLOOD Calcium-8.9 Phos-4.8* Mg-2.1
___ 03:09PM BLOOD CRP-2.7 CEA-1.3
___ 03:15PM BLOOD Lactate-1.0

Discharge labs
___ 06:37AM BLOOD WBC-5.6 RBC-3.82* Hgb-12.2 Hct-37.4 
MCV-98 MCH-31.9 MCHC-32.6 RDW-13.2 RDWSD-47.5* Plt ___
___ 06:37AM BLOOD ALT-13 AST-16 LD(LDH)-176 AlkPhos-60 
TotBili-0.2
___ 06:37AM BLOOD Albumin-3.9

Imaging:
CT abdomen ___
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are notable for bibasilar 
atelectasis and patchy bibasilar peribronchial opacities which 
may reflect sequelae of 
aspiration and likely scarring.  There is no evidence of pleural 
or 
pericardial effusion. 
  
ABDOMEN: 
HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  
There is multiple subcentimeter hypodensities throughout the 
liver which are too small to characterize though likely 
represent biliary hamartomas versus hepatic cysts.  There is no 
evidence of intrahepatic or extrahepatic biliary dilatation.  
The gallbladder is within normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
 
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  Multiple bilateral cortical renal 
hypodensities are visualized most of which are subcentimeter and 
too small to characterize though likely represent renal cysts, 
in addition to a 1.8 cm renal cyst in the right lower pole.  
There is no evidence of hydronephrosis.  There is no perinephric 
abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  There is a soft 
tissue mass centered at the cecum measuring approximately 5.0 x 
5.3 cm worrisome for primary colonic malignancy.  There is some 
areas of lower density suspicious for necrosis.  Conglomerate 
soft tissue mass creeping along the mesenteric more superiorly 
worrisome for metastatic adenopathy measuring approximately 5.8 
x 3.5 x 3.1 cm.  This conglomerate adenopathy is seen to extend 
to the level of the third portion of the duodenum though without 
definitive invasion. The primary mass is seen to extend to the 
region of the ileocecal valve.  The terminal ileum is also 
slightly thickened.  Upstream small bowel is dilated to 3.5 cm 
with air-fluid level worrisome for component of obstruction.  
There is mild stranding surrounding the primary mass.  Distally 
the colon is notable for scattered diverticula in the sigmoid. 
  
PELVIS: Evaluation of the bladder and pelvis is severely limited 
secondary to bilateral hip arthroplasties.  There is small 
amount of fluid in the pelvis and between the mesenteric loops. 
  
LYMPH NODES: Besides the right lower quadrant mass worrisome for 
conglomerate malignant adenopathy, there are other scattered 
adjacent right lower quadrant mesenteric lymph nodes.  A 9 mm 
short axis left periaortic lymph node is seen. There is no 
pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted.  Splenic artery aneurysm, 
partially thrombosed measures 
approximately 1.4 cm (06:29). 
  
BONES: Degenerative changes visualized throughout the 
thoracolumbar spine most severe at L2-L3 without evidence of 
worrisome osseous lesions or acute fracture.  L4 vertebral body 
hemangiomas are noted. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
1. Necrotic mass in the right lower quadrant arising from the 
cecum most 
worrisome for primary colonic malignancy with contiguous right 
lower quadrant mesenteric mass worrisome for conglomerate 
adenopathy, some of which is necrotic. 
2. Mass is seen to extend to the ileocecal valve with secondary 
wall 
thickening of the terminal ileum, potentially from tumor 
extension and degree of upstream small bowel dilation and a 
component of obstruction. 
3. Subcentimeter liver hypodensities too small to characterize, 
though 
potentially cysts and/or hamartomas, metastatic lesions are not 
excluded 

 
Brief Hospital Course:
Ms. ___ is a ___ female with history of 
hypothyroidism who presented with worsening abdominal pain poor 
appetite and weight loss. 

ACUTE/ACTIVE PROBLEMS:
#Abdominal pain 
#New colonic and mesenteric mass 
# Likely Partial SBO: patient presented with progressive 
abdominal pain with intermittent episodes of cramping and 
post-prandial bloating found to have necrotic mass which seemed 
to be originating from the cecum based on imaging. This had an 
associated mesenteric mass as well as suggestion of partial SBO 
both on history and imaging. Of note she had a normal 
colonoscopy about ___ years ago and no family history of GI or GYN 
malignancies. She was started on clears with plans for 
colonoscopy prep and colonoscopy and biopsy. Given need for 
expedited workup and continuity of care, she was transferred to 
the ___ where her long term oncology 
care would take place.

# Urinary retention - resolved. Patient complained of difficulty 
voiding. Her UA showed some leukocyte esterase and nitrites but 
no leukocytosis or fevers, no dysuria, and thus we suspected the 
urinary retention was more likely related to partial SBO with 
distension and gas. Empiric antibiotics were held off pending 
urine culture results

CHRONIC/STABLE PROBLEMS:
#Hypothyroidism - continued home synthroid

#Anxiety - continued home sertraline and prn ativan

TRANSITIONAL ISSUES
======================
- New cecal mass which requires biopsy and further workup

>30 minutes spent on discharge planning and coordination

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. LORazepam 1 mg PO DAILY:PRN anxiety 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Levothyroxine Sodium 50 mcg PO DAILY 
5. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
3.  Levothyroxine Sodium 50 mcg PO DAILY  
4.  LORazepam 1 mg PO DAILY:PRN anxiety  
5.  Sertraline 100 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Colonic mass
Likely Partial Small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Miss ___,

You were admitted due to abdominal pain. A CT scan was done 
which showed a necrotic mass in the right lower part of your 
intestines. 

You were transferred to ___ and ___ to expedite 
workup and ensure continuity of your care there.

It was a pleasure being part of your care.

Your ___ team
 
Followup Instructions:
___